US06200975B1
3-(5-Methoxyisoxazol-3-yl)-6-(1-methyl-1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine
The title-compound was prepared from 3-(5-methoxyisoxazol-3-yl)-6-(4-toluenesulphonyloxy)-1,2,4-triazolo[3,4-a]phthalazine (prepared as described in Example 118 part a) and 3-hydroxymethyl-1-methyl-1,2,4-triazole (prepared using the conditions of Itoh and Okongi, EP-A-421210) using the conditions given for in Example 98, 1H NMR (360 MHz, CDCl3) δ 3.96 (3H, s, CH3), 4.15 (3H, s, CH3), 5.72 (2H, s, CH2), 6.30 (1H, s, Ar—H), 7.79 (1H, m, Ar—H), 7.95 (1H, m, Ar—H), 8.07 (1H, s, Ar—H), 8.28 (1H, d, J=8.4 Hz, Ar—H), 8.68 (1H, d, J=8.4 Hz, Ar—H); MS (ES30) m/e 379 [MH]+; Anal. Found. C, 53.97; H, 3.73; N, 29.62. C17H14N8O3 requires C, 54.04; H, 3.48; N, 29.32%.

reactant | 3-(5-methoxyisoxazol-3-yl)-6-(4-toluenesulphonyloxy)-1,2,4-triazolo[3,4-a]phthalazine | COC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OS(=O)(=O)C2=CC=C(C=C2)C | C20H15N5O5S
reactant | 3-hydroxymethyl-1-methyl-1,2,4-triazole | OCC1=NN(C=N1)C | C4H7N3O
product | 3-(5-Methoxyisoxazol-3-yl)-6-(1-methyl-1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine | COC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NN(C=N2)C | C17H14N8O3
